US09120805B2
28.9 mg (0.454 mmol) Copper powder is added to a solution of 70.7 mg (0.227 mmol) 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid in 2 ml quinoline. The mixture is stirred at 190° C. for 20 hours. Quinoline is distilled off under vacuum and the residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 6-(4-tert-butyl-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one as colourless crystals; HPLC/MS: 1.88 (C), [M+H] 268; 1H NMR (400 MHz, DMSO-d6) δ [ppm] 11.49 (s, 1H), 8.03 (s, 1H), 7.92 (d, J=2.2, 1H), 7.69 (d, J=8.5, 2H), 7.49 (d, J=8.6, 2H), 7.01 (d, J=1.6, 1H), 1.32 (s, 9H).

reactant | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid | 0.227 mmol, 70.7 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)C(=O)O)=O | C17H17N3O3
solvent | quinoline | 2 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | Copper | 0.454 mmol, 28.9 mg | [Cu] | Cu
product | 6-(4-tert-butyl-phenyl)-5H-pyrazolo[1,5-a]pyrazin-4-one | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=CC2)=O | C16H17N3O
